US06958354B2
Step A: Preparation of 2-(4-Methoxy-quinoline-6-yl)-1-(6-methyl-pyridin-2-yl)-ethanone
To a 20 mL threaded pressure tube was added 6-Chloro-4-methoxy-quinoline (298 mg, 1.54 mmol), palladium (II) acetate (7 mg, 0.03 mmol), 2-Dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (a.k.a. AMPHOS, 24 mg, 0.06 mmol), and potassium tert-butoxide (1M in TH, 3.7 mmol). This mixture was stirred and 1-(6-Methyl-pyridin-2-yl)-ethanone was added. The pressure tube was then sealed and heated to 70° C. The reaction mixture was stirred at 70° C. for 18 hours. LC-MS showed product. The reaction mixture was then cooled and poured into a solution of 600 μL of glacial acetic acid in 30 mL of water. Title compound was extracted with 3×30 mL of chloroform. The organic layers were combined, dried over sodium sulfate, filtered, and concentrated via rotary evaporator. The residue was purified by flash column chromatography (silica gel) using a 1% Methanol /Chloroform solvent system affording 255 mg of desired product (56% yield). HPLC=4.39 min, LC-MS=293 (M+H, mw=292.34).

reactant | 6-Chloro-4-methoxy-quinoline | 1.54 mmol, 298 mg | ClC=1C=C2C(=CC=NC2=CC1)OC | C10H8ClNO
reactant | potassium tert-butoxide | 3.7 mmol, 1M | CC(C)([O-])C.[K+]
reactant | 1-(6-Methyl-pyridin-2-yl)-ethanone | CC1=CC=CC(=N1)C(C)=O | C8H9NO
reactant | acetic acid | 600 μL | C(C)(=O)O | C2H4O2
solvent | water | 30 mL | O | H2O
catalyst | palladium (II) acetate | 0.03 mmol, 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-Dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.06 mmol, 24 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
product | 2-(4-Methoxy-quinoline-6-yl)-1-(6-methyl-pyridin-2-yl)-ethanone | 255 mg, 56% yield | COC1=CC=NC2=CC=C(C=C12)CC(=O)C1=NC(=CC=C1)C | C18H16N2O2
